US07582673B2
To a solution of benzo[b]thiophene-2-sulfonic acid [2-(5-ethenesulfonyl-2-methoxy-benzenesulfonylamino) -phenyl]-amide (0.5 mmol), as prepared above, in dry THF (10 mL), Me2NH-THF solution (2.5 mL; 2 M Me2NH in THF solution) was added. The resulting reaction mixture was stirred at room temperature for 30 min. After removal of the solvent under vacuum, the residue obtained was purified by flash column chromatography eluting with EtOAc then DCM/methanol (100:2 to 100:10) to give 290 mg of benzo[b]thiophene-2-sulfonic acid {2-[5-(2-dimethylaminoethanesulfonyl)-2-methoxybenzenesulfonylamino]phenyl}-amide. LC: Tr 0.99 min; MS: 610.7 (M+1)+.

reactant | benzo[b]thiophene-2-sulfonic acid [2-(5-ethenesulfonyl-2-methoxy-benzenesulfonylamino) -phenyl]-amide | 0.5 mmol | C(=C)S(=O)(=O)C=1C=CC(=C(C1)S(=O)(=O)NC1=C(C=CC=C1)NS(=O)(=O)C1=CC2=C(S1)C=CC=C2)OC | C23H20N2O7S4
reactant | Me2NH THF | 2 M, 2.5 mL | N(C)C.C1CCOC1
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | benzo[b]thiophene-2-sulfonic acid {2-[5-(2-dimethylaminoethanesulfonyl)-2-methoxybenzenesulfonylamino]phenyl}-amide | 290 mg | CN(CCS(=O)(=O)C=1C=CC(=C(C1)S(=O)(=O)NC1=C(C=CC=C1)NS(=O)(=O)C1=CC2=C(S1)C=CC=C2)OC)C | C25H27N3O7S4
